data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(F)cc(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)cc(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)cc(Cl)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(F)cc(Cl)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(C)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(C)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(C)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(C)C(F)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(F)cc1Cl)C1C2CCC1C2", "products": "[O][C](c1ccc(F)cc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(F)cc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(F)cc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(F)cc1Cl", "products": "OC(=CC1C=CCC1)c1ccc(F)cc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(F)cc1Cl", "products": "O=C(CC1C=CCC1)c1ccc(F)cc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC(C)c1ccccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "CC(C)c1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "CC(C)c1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "CC(C)c1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "CC(C)c1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "C[C+]1C2(c3ccccc3C(C)C)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccccc3C(C)C)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccccc2C(C)C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2C(C)C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccccc2C(C)C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2C(C)C)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccccc2C(C)C)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccccc2C(C)C)CCC(C(=O)O)C1(C)C", "products": "CC(C)c1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "CC(C)c1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "CC(C)c1ccccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1Br.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Br"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Br", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Br.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Br", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Br)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Br)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1Br"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1Br", "products": "COc1cc2c(cc1Br)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1Br)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(cc1Br)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1Br)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(cc1Br)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(cc1Br)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2cc1Br.[H+]"}]}
